US07244730B2
(Step 2) 4-Bromo-2-(tert-butyl)-6-nitrophenol
Concentrated nitric acid (112 ml) was gradually added dropwise to a solution of 4-bromo-2-(tert-butyl)phenol (485 g) in hexane (3000 ml) while cooling on ice. After stirring for 2 hours at below 20° C., ether (2000 ml) was added and the reaction mixture was washed with water. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Hexane was added to the residue and the precipitated crystals were filtered to yield the title compound (418 g) as yellow crystals.

reactant | nitric acid | 112 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-bromo-2-(tert-butyl)phenol | 485 g | BrC1=CC(=C(C=C1)O)C(C)(C)C | C10H13BrO
reactant | ether | 2000 ml | CCOCC | C4H10O
solvent | hexane | 3000 ml | CCCCCC | C6H14
product | 4-Bromo-2-(tert-butyl)-6-nitrophenol | 418 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])O)C(C)(C)C | C10H12BrNO3
